US05068465
4-Allyl-1-(4-Methoxybenzyloxy)Benzene (II)
4-Allylphenol, (6.14 g, 0.046 moles), 4-methoxybenzyl chloride, (6.3 ml, 0.046 moles), potassium carbonate (8.3 g, 0.06 moles) and a catalytic amount of potassium iodide were mixed together in about 200 ml acetone, and heated to reflux, with stirring. The reaction was allowed to proceed overnight, then cooled to room temperature and diluted with about 100 ml water. The product was extracted into ethyl acetate (3 times, 300 ml each time), and then dried over magnesium sulfate/potassium carbonate, filtered and concentrated in vacuo to yield the title compound as a light yellow solid, m.p. 59°-61° C.

reactant | 4-Allylphenol | 0.046 moles, 6.14 g | C(C=C)C1=CC=C(C=C1)O | C9H10O
reactant | 4-methoxybenzyl chloride | 0.046 moles, 6.3 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 0.06 moles, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | about 200 ml | CC(=O)C | C3H6O
solvent | water | about 100 ml | O | H2O
product | 4-Allyl-1-(4-Methoxybenzyloxy)Benzene | C(C=C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C17H18O2
